US07709507B2
1-(4-Hydroxy-phenyl)-2-phenyl-ethanone O-methyl-oxime:
1-(4-hydroxy-phenyl)-2-phenyl-ethanone (10.00 g, 47.12 mmol) was dissolved in pyridine (60 mL) and methoxylamine hydrochloride (5.90 g, 70.64 mmol) was added. The resulting reaction mixture was stirred at room temperature for 14 hours, and then concentrated. The solids were washed with ether, and the ether layers were combined and concentrated to afford the desired title compound. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ ppm 3.90 (s, 3 H) 4.06 (s, 2 H) 6.73 (d, J=8.21 Hz, 1 H) 7.18 (dt, J=15.46, 7.66 Hz, 2 H) 7.38-7.44 (m, 1H) 7.50 (d, J=7.92 Hz, 1 H) 7.81 (s, 2 H) 8.55-8.64 (m, 2 H).

reactant | 1-(4-hydroxy-phenyl)-2-phenyl-ethanone | 47.12 mmol, 10.00 g | OC1=CC=C(C=C1)C(CC1=CC=CC=C1)=O | C14H12O2
reactant | methoxylamine hydrochloride | 70.64 mmol, 5.90 g | Cl.O(C)N
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4-Hydroxy-phenyl)-2-phenyl-ethanone O-methyl-oxime | CON=C(CC1=CC=CC=C1)C1=CC=C(C=C1)O | C15H15NO2
